US06632826B1
A solution of 2-{2-hydroxy-3-[2-methanesulfonylamino-3-(naphthalen-2-sulfinyl)-propionylamino]-4-phenyl-butyl}-5-methoxy-cyclohexanecarboxylic acid tert-butylamide in dichloromethane (2 ml) was treated with a solution of meta-chloroperbenzoic acid (13 mg) in dichloromethane (1 ml) and the reaction mixture stirred at room temperature for 2 hours. The solution was then washed with 5% aqueous sodium hydrogen carbonate solution, dried (anhydrous magnesium sulfate) and concentrated in vacuo to give 2-{2-hydroxy-3-[2-methanesulfonylamino-3-(naphthalen-2-sulfonyl)-propionylamino]-4-phenyl-butyl}-5-methoxy-cyclohexanecarboxylic acid tert-butylamide (23 mg, 92%) as a white foam. Mass spectrum, 717 [M+H]+.

reactant | 2-{2-hydroxy-3-[2-methanesulfonylamino-3-(naphthalen-2-sulfinyl)-propionylamino]-4-phenyl-butyl}-5-methoxy-cyclohexanecarboxylic acid tert-butylamide | C(C)(C)(C)NC(=O)C1C(CCC(C1)OC)CC(C(CC1=CC=CC=C1)NC(C(CS(=O)C1=CC2=CC=CC=C2C=C1)NS(=O)(=O)C)=O)O | C36H49N3O7S2
reactant | meta-chloroperbenzoic acid | 13 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
product | 2-{2-hydroxy-3-[2-methanesulfonylamino-3-(naphthalen-2-sulfonyl)-propionylamino]-4-phenyl-butyl}-5-methoxy-cyclohexanecarboxylic acid tert-butylamide | 23 mg, 92% | C(C)(C)(C)NC(=O)C1C(CCC(C1)OC)CC(C(CC1=CC=CC=C1)NC(C(CS(=O)(=O)C1=CC2=CC=CC=C2C=C1)NS(=O)(=O)C)=O)O | C36H49N3O8S2
